US09284283B2
To a 50 ml round-bottomed flask under nitrogen was added lithium diisopropylamide (10.95 mL, 21.90 mmol). The solution was cooled to −20° using a controlled dry ice/acetonitrile bath. Cyclopentanecarboxylic acid (1.187 mL, 10.95 mmol) in dry THF (10 mL) was added over 5 minutes, keeping the temperature at −20° C. The mixture was warmed to room temperature, stirred for one hour, then cooled to −78° C. Tert-butyl acrylate (1.685 mL, 10.95 mmol) in dry THF (10 mL) was added dropwise over 5 min, keeping the temperature at −70° C. After 2 hours at −70° C., the mixture was quickly warmed to 0° C., acidified with 5N HCl, and extracted with hexane. The hexane extract was washed with water and saturated sodium bicarbonate, water, and dried over MgSO4, and then recrystallized from hexanes. Recovered 1-(3-tert-butoxy-3-oxopropyl)cyclopentanecarboxylic acid (1.8 g, 7.43 mmol, 67.8% yield).

reactant | lithium diisopropylamide | 21.90 mmol, 10.95 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | Cyclopentanecarboxylic acid | 10.95 mmol, 1.187 mL | C1(CCCC1)C(=O)O | C6H10O2
reactant | Tert-butyl acrylate | 10.95 mmol, 1.685 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | HCl | 5N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(3-tert-butoxy-3-oxopropyl)cyclopentanecarboxylic acid | 7.43 mmol, 1.8 g, 67.8% yield | C(C)(C)(C)OC(CCC1(CCCC1)C(=O)O)=O | C13H22O4
